US07754727B2
B. (3R*,4R*)-4-(3-Bromo-phenyl)-3-hydroxy-piperidine-1-carboxylic acid t-butyl ester
The title compound is prepared analogously as described for the title B compound in Example 1 from the title A compound, 4-(3-bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester: MS 356.2/358.1 [M+H]+; retention time 6.59 min (HPLC, Nucleosil C18; 5→100% CH3CN in H2O within 8 min).

reactant | 4-(3-bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)Br | C16H20BrNO2
reactant | CH3CN | CC#N | C2H3N
reactant | H2O | O | H2O
product | (3R*,4R*)-4-(3-Bromo-phenyl)-3-hydroxy-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC(=CC=C1)Br)O | C16H22BrNO3
